US08835488B2
To a solution of crude 2,2-diethyloxan-4-ol (500 mg, 3.2 mmol) in CH2Cl2 (10 ml) were added NMO (750 mg, 6.41 mmol) and 4 A molecular sieves (2 g). The solution was stirred for 30 mins and then TPAP (34 mg, 0.096 mmol) was added in one portion. The reaction was allowed to stir for 10 h. After checking the TLC, the alcohol was gone. It was filtered through a short pad of SiO2. The filtrate was concentrated and purified by normal phase SiO2 chromatography (0% to 50% EtOAc/hexanes) to give 2,2-diethyloxan-4-one (365 mg, 73%).

reactant | 2,2-diethyloxan-4-ol | 3.2 mmol, 500 mg | C(C)C1(OCCC(C1)O)CC | C9H18O2
reactant | NMO | 6.41 mmol, 750 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.096 mmol, 34 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 2,2-diethyloxan-4-one | 365 mg, 73% | C(C)C1(OCCC(C1)=O)CC | C9H16O2
